US04678781
To a solution of cefotaxime (5.24 g.) in phosphate buffer (pH 6.4, 440 ml.) was added sodium azide (2.86 g.) and sodium iodide (1.65 g.) and the mixture was immersed in a 70° bath with stirring for 4.5 hours. The solvent was evaporated to the point of precipitation and then the pH adjusted to 2.5 with 2N aqueous HCl. The resulting precipitate was collected, washed with water, acetone and ether and dried over P2O5 to give 3-azidomethyl-7-[2-(2-aminothiazol-4-yl)-2-((Z)-methoxyimino)acetamido]ceph-3-em-4-carboxylic acid in quantative yield, having the following n.m.r. in solvent A: 3.4 (d, 1H); 3.7 (d, 1H); 3.86 (s, 3H); 3.95 (d, 1H); 4.4 (d, 1H); 5.15 (d, 1H); 5.78 (d, 1H); 6.75 (s, 1H).

reactant | cefotaxime | 5.24 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)/C(=N\OC)/C3=CSC(=N3)N)SC1)C(=O)O | C16H17N5O7S2
reactant | sodium azide | 2.86 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium iodide | 1.65 g | [I-].[Na+]
solvent | phosphate | 440 ml, pH 6.4 | P(=O)([O-])([O-])[O-]
product | 3-azidomethyl-7-[2-(2-aminothiazol-4-yl)-2-((Z)-methoxyimino)acetamido]ceph-3-em-4-carboxylic acid | N(=[N+]=[N-])CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(\C(=N/OC)\C=2N=C(SC2)N)=O)=O | C14H14N8O5S2
